*$
*  LM2678
*****************************************************************************
*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LM2678
* Date: 19JUN2012
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: LM267X 3A, 5A Evaluation Boards
* EVM Users Guide: SNVA013C March 4, 2011
* Datasheet: SNVS029G May 1, 2008
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
.SUBCKT LM2678_TRANS VIN FDBACK CBOOT VSWITCH ILIM_OR_ONOFF GND 
* GM1 VALUES --> ADJ=0.673M, 3.3V - 0.48M, 5V - 0.673M, 12V - 1.54M
* Assume either ILIM or ONOFF exclusively

EVINX VINX1 0 VIN 0 1
VVINX VINX1 VINX
FVINX VIN 0 VVINX 1

******************************************************
*** ON/OFF - REMOVE I1, LZEN, V(ONOFF,GND) CLAUSES ***
******************************************************

I1 VINX ILIM_OR_ONOFF DC 20U
XD1 GND ILIM_OR_ONOFF LZEN7_0

EBSTARTUP ENABLE GND VALUE = { IF(V(ILIM_OR_ONOFF,GND) > 1.4 , IF(V(VINX,GND)>7.90 , V(ILIM_OR_ONOFF,GND) , 0),0)}
EB12V REFV GND VALUE = { IF(V(ILIM_OR_ONOFF,GND) > 1.4 , 1.215 , 0)}
EBREF REF5V GND VALUE = { IF((V(VINX,GND) > 7.90 & V(ILIM_OR_ONOFF,GND) > 1.4) , 5 , 0)}


**********************
*** NON SOFT START ***
**********************

GBSSClamp GND SS VALUE = { IF(V(VINX) > 3.3 , IF(V(SS) < 5 , 3.7E-6 , 0) , 0)}
CSS SS GND 26.37p
EBSSCL 361 GND VALUE = { IF (V(101) > 1.1 , 0 , 5)}
DSS SS 361 DSS
.MODEL DSS D RS=10k

*****************
*** 5A SWITCH ***
*****************

XSW2 31 30 VSWITCH NATIONALFET5A_0
* SRC = NATIONALFET5A
* SYM = POWMOSN



**********************************
*** CURRENT LIMIT FOR 5A PARTS ***
**********************************

*  FIRST CURRENT LIMIT I(VSENSE) = 7A*0.12(RDSON) = 0.84V
*  FIRST CURRENT LIMIT SET TO 7A
EBVRSEN 102 0 VALUE = {IF(I(VSENSE) > 7 , 5 , 0)}

*  SECOND CURRENT LIMIT 18% HIGHER = 1V (SEE BR)
*  SECOND CURRENT LIMIT 5-(I(VSENSE) * 45.5 * 0.2)
*  2ND CURRENT LIMIT @8.26A REDUCES 5V OSC REF BY 30% OF I(VSENSE)
EBFS2 103 0 VALUE = {IF(I(VSENSE) > 8.26 , 5-(I(VSENSE)*0.12*0.3) , 5)}

***************************
*** LM267X BASE CIRCUIT ***
***************************

*** CBOOST ***
X4 VINX CBOOT REG1MA_0
X1 VSWITCH CBOOT LZEN10_0

*** 5V REF ***
RREG 50 52 0.33
CREF 52 GND 1N
V3 REF5V 50

*** ERROR AMP ***
RFB2 FDBACK EA1 4320.0
RFB1 EA1 0 2500.0

GM1 GND 15 EA1 REFV 4.8E-4
GBGM2 GND 17 VALUE={V(REFV,15) * V(13)}

XA1 VINX 13 GM2GAIN
D1 17 REF5V _D
D2 400 17 _D
VD2 400 Gnd 0.9 ; move voltage lower for longer recovery time, lower voltage swing
.MODEL _D D
R3 REFV 16 10K
R4 15 16 2K
L1 16 REFV 20MH
R5 17 18 15K
C1 18 GND 10NF IC = 2.5
C6 17 18 105P
R10 17 GND 300K
E1 ErrOut Gnd 17 Gnd 0.8 ; ESOURCE GAIN
EBSSERR 360 Gnd VALUE = {IF(V(SS) < V(ErrOut) , V(SS) , V(ErrOut))}

*** COMPARATOR ***
X3 RTCT 360 COMPOUT COMPDEL_0

*** OSCILLATOR ***
S1 26 GND RTCT GND _S1
.MODEL _S1 VSWITCH VT=1.9 VH=1.3 RON=.01 ROFF=1MEG
GBDISCH RTCT GND VALUE = {IF (V(26) < 0.6 , IF(V(REF5V) > 3.2 , .46M , 0),0)}
RPULL 26 REF5V 100K
RT RTCT 33 100K
CT RTCT 9 .0399N
VM 9 GND
EBVM PULSE300N GND VALUE = {IF(I(VM) < 0 , 1 , 0)}

*** OUTPUT DRIVER ***
VSENSE VINX 31
R103 103 33 200
C103 33 GND 1N IC=5
R101 102 101 200
C101 101 GND 1N

***********************************
*          CONTROL LOGIC          *
***********************************
X2 35 REF5V 32 GND QB Q FFLOP_0
EBR 32 GND VALUE= {IF(V(COMPOUT) > 2 , 5 , IF(V(101) > 1 , 5 , 0))}
* IF PWM COMP HIGH (>2V) OR IF FIRST CURRENT LIMIT (>7A) THEN RESET FF
EBS 35 GND VALUE = {IF(V(PULSE300N) < .5 , 5 , 0)}
EBD 30 VSWITCH VALUE = { IF((V(Q) > 2.5) & (V(SS) > .63) & (V(ENABLE) > 1.4) & (V(PULSE300N) <.5) , 10 , 0)}
.ENDS LM2678_TRANS


.SUBCKT FFLOP_0 CLK D R S QB Q
EFLOP1 QN 0 VALUE {IF(V(CLK)>1.5 & V(R) < 1.5,3.5,0.3)}
RQN QN Q 3000
CQN Q 0 20P
rds d 0 1G
RSS S 0 1G
RQB QB 0 1G
vQB QB 0 5
.ENDS FFLOP_0


.SUBCKT COMPDEL_0 1 2 3
*               + - OUT
EB1 4 0 VALUE = { IF(V(1) > V(2) , 1V , 0)}
RT 4 5 100
CT 5 0 0.1NF
EB2 10 0 VALUE = {IF(V(5) > 500M , 5V , 0)}
RD 10 3 100
CD 3 0 250P
.ENDS

***********************************
*        ZENER/JFET DIODES        *
***********************************
.SUBCKT LZEN7_0 1 2
D7 1 2 DZEN
.MODEL _D D
.MODEL DZEN D(RS=3.5305 BV=6.9294 CJO=313.27P TT=50N M=.33 VJ=.75 IS=1E-11
+ N=1.27 IBV=20MA)
.ENDS
.SUBCKT LZEN10_0 1 2
D1 1 2 DZEN
.MODEL _D D
.MODEL DZEN D(RS=8.4831 BV=9.8303 CJO=233.41P TT=50N M=.33 VJ=.75 IS=1E-11
+ N=1.27 IBV=20MA)
.ENDS
.SUBCKT REG1MA_0 1     2
JFET 1 2 2 JREG1MA
.MODEL JREG1MA NJF (VTO=-1.35 BETA=.67M LAMBDA=1.0M RD=49
+ RS=125 IS=1.56F PB=1 FC=.5 CGS=5P CGD=3.8P)
.ENDS

.SUBCKT GM2GAIN 1 3
EPWL2  2 0 TABLE {V(1,0)} ((0,1.48M) (10 1.48M) (20 0.673M) (40 0.48M))
EPWL3 3 0 VALUE={LIMIT(V(2),0.48m,1.48m)}
.ENDS

.SUBCKT NATIONALFET5A_0 10 20 40
*** FULL POWER MOSFET MODEL 60V 14A 0.12OHM
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  46.5M
RS  30  3  3.5M
RG  20  2  50
CGS  2  3  561P
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  1.01N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  .1N
.MODEL DMOS NMOS (LEVEL=3 VMAX=125K THETA=58.1M ETA=2M VTO=3.1 KP=5.39)
.MODEL DCGD D (CJO=1.01N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=58.1N N=1.5 RS=53.6M BV=60 CJO=1.21N VJ=0.8 M=0.42 TT=90N)
.MODEL DLIM D (IS=100U)
.ENDS
*********************************************
******inp cap**************
.SUBCKT CIN 1 2
* C = 9.4E-6 F
* ESR = 0.0010 Ohm

Ccap 1 3 9.4E-6 
Resr 3 2 0.0010
.ENDS

******************************************************************************************
* WB_CAP_AL Spice Model
*
******************************************************************************************


* Inputs: ESR, Cnom, TTemp, IC
*
* Calculations:
*
* C 		= Cnom*(1-((((27-32)/85)^2) * .12))
* C1 		= C*0.2*2
* R1 		= ESR*C/C1/0.2
* R2 		= 3 * ESR
* R2_MOD	= 1e3 / C
* R4		= 100^5*R1
* R6		= 100^2*R1
* R9		= 100^4*R1
* R10		= 100^3*R1

.SUBCKT Cout 2 4
R1 2 3 0.025
C1 3 1 1.1399999999999999E-4 IC = 0.0
R3 5 4 150; "free space" reduced by sqrt(dielectric constant)
R2 2 4 8771929.824561404
R4 3 26 3.125E9
R6 3 7 3125.0
C5 7 1 4.56E-5 IC = 0.0
R7 3 10 3125.0
C6 10 1 4.56E-5 IC = 0.0
R8 3 13 3125.0
C7 13 1 4.56E-5 IC = 0.0
C2 26 1 4.56E-5 IC = 0.0
R9 3 28 3.125E7
C3 28 1 4.56E-5 IC = 0.0
R10 3 29 312500.0
C4 29 1 4.56E-5 IC = 0.0
L8 1 5 0.2e-9
R24 1 5 0.07500000000000001
L12 5 4 10e-12
.ends

******************************************************************************************
* WB_INDUCTOR Spice Model
*
******************************************************************************************


.SUBCKT LM2678_IND 1 2
*{ L = 1.5E-5 DCR = 0.027 }
* PARAMETERS: L INDUCTANCE IN HENRIES, DCR DC SERIES RESISTANCE IN OHMS

L1 2 3 1.5E-5 
RDCR 3 1 0.027

.ENDS


******************************************************************************************
*DIODE SCHOTTKY
******************************************************************************************
.SUBCKT DIODE_SCHOTTKY 1 2
D1 1 2 D1
.MODEL D1 D BV=500 CJO=470E-12 EG=0.69 IBV=1E-6
+ IS=9E-6 M=0.8 N=1.442 RS=60E-3 VJ=1 XTI=2
.ENDS DIODE_SCHOTTKY
***************************************


